US07915300B2
4-[4-(4-Carboxy-phenyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester
To a suspension of 4-thiocarbamoyl-piperazine-1-carboxylic acid tert-butyl ester (13.3 mmol) in ethanol (60 ml) was added 4-(2-bromoacetyl)-benzoic acid (13.3 mmol) and 4-methylmorpholine (13.9 mmol). The reaction was heated at reflux for 2.5 h. The reaction was concentrated in vacuo and the solid washed with water (200 ml) to yield the title compound as a white solid (3.9 g). 1H NMR (400 MHz, CDCl3) 1.45 (9H, s), 3.58 (8H, m), 4.86 (1H, s), 6.95 (1H,s), 7.97 (2H, d, J 8 Hz), 8.1 (2H, d, J 8 Hz).

reactant | 4-thiocarbamoyl-piperazine-1-carboxylic acid tert-butyl ester | 13.3 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C(N)=S | C10H19N3O2S
reactant | 4-(2-bromoacetyl)-benzoic acid | 13.3 mmol | BrCC(=O)C1=CC=C(C(=O)O)C=C1 | C9H7BrO3
reactant | 4-methylmorpholine | 13.9 mmol | CN1CCOCC1 | C5H11NO
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-[4-(4-Carboxy-phenyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester | 3.9 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC=C(N1)C1=CC=C(C=C1)C(=O)O | C19H23N3O4S
